US07932272B2
Imidazo[1,2-a]pyridine-6-carboxylic acid (5-(3-fluorophenoxy)thiophene-2-ylmethyl) amide
To a solution of imidazo[1,2-a]pyridine-6-carboxylic acid (87 mg, 0.54 mmol) and C-(5-(3-fluorophenoxy)thiophen-2-yl)methylamine (120 mg, 0.54 mmol) in N,N-dimethylformamide (5 mL) were added benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (240 mg, 0.54 mmol) and triethylamine(0.15 mL, 1.08 mmol), and the solution was stirred for 40 minutes at 80° C. Water and ethyl acetate were added to the reaction mixture for extraction, and the organic layer was washed twice with water. Silica gel was added to the organic layer, solvent was evaporated in vacuo for adsorption, purification was carried out by silica gel column chromatography (hexane:ethyl acetate=1:1, then ethyl acetate), and the title compound (90 mg, 0.25 mmol, 45.4%) was obtained as a light brown oil.

reactant | imidazo[1,2-a]pyridine-6-carboxylic acid | 0.54 mmol, 87 mg | N=1C=CN2C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | C-(5-(3-fluorophenoxy)thiophen-2-yl)methylamine | 0.54 mmol, 120 mg | FC=1C=C(OC2=CC=C(S2)CN)C=CC1 | C11H10FNOS
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 0.54 mmol, 240 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.08 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | Imidazo[1,2-a]pyridine-6-carboxylic acid (5-(3-fluorophenoxy)thiophene-2-ylmethyl) amide | 0.25 mmol, 90 mg, 45.4% | FC=1C=C(OC2=CC=C(S2)CNC(=O)C=2C=CC=3N(C2)C=CN3)C=CC1 | C19H14FN3O2S
